.SUBCKT MC33071#0  1 2 3 4 5
*
C1   11 12 8.660E-12
C2    6  7 8.000E-12
CEE  10 99 1.231E-12
DC    5 53 DX
DE   54  5 DX
DLP  90 91 DX
DLN  92 90 DX
DP    4  3 DX
EGND 99  0 POLY(2) (3,0) (4,0) 0 .5 .5
FB    7 99 POLY(5) VB VC VE VLP VLN 0 8.842E6
+ -9E6 9E6 9E6 -9E6
GA    6  0 11 12 251.3E-6
GCM   0  6 10 99 3.550E-9
IEE   3 10 DC 120.2E-6
HLIM 90  0 VLIM 1K
Q1   11  2 13 QX
Q2   12  1 14 QX
R2    6  9 100.0E3
RC1   4 11 3.979E3
RC2   4 12 3.979E3
RE1  13 10 3.542E3
RE2  14 10 3.542E3
REE  10 99 1.664E6
RO1   8  5 30
RO2   7 99 45
RP    3  4 34.09E3
VB    9  0 DC 0
VC    3 53 DC 1
VE   54  4 DC .3
VLIM  7  8 DC 0
VLP  91  0 DC 30
VLN   0 92 DC 30
.MODEL DX D(IS=800.0E-18)
.MODEL QX PNP(IS=800.0E-18 BF=600)
.ENDS
